US05420288
Synthesis of 5-(2-naphthyl)-1H-tetrazole represented by formula (VII-7-A)
A mixture of 10 g of 2-cyanonaphthalene, 10.61 g of sodium azide, and 7.67 g of lithium chloride was placed in a reaction vessel, and 240 ml of 2-methoxyethanol serving as a solvent was added thereto. The above mixture was refluxed with stirring for 80 hours. The mixture was cooled to room temperature, and 500 ml of water was added to the mixture.

reactant | 2-cyanonaphthalene | 10 g | C(#N)C1=CC2=CC=CC=C2C=C1 | C11H7N
reactant | sodium azide | 10.61 g | [N-]=[N+]=[N-].[Na+]
reactant | lithium chloride | 7.67 g | [Cl-].[Li+]
reactant | water | 500 ml | O | H2O
solvent | 2-methoxyethanol | 240 ml | COCCO | C3H8O2
product | 5-(2-naphthyl)-1H-tetrazole | C1=C(C=CC2=CC=CC=C12)C1=NN=NN1 | C11H8N4
